US05610156
N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)phenyl]-2-(4-methyl-1-piperazinyl)-pyridine-5-carboxamide
using the conditions of Example 334 and 1 g of N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)phenyl]-2-chloropyridine-3-carboxamide and 5 ml of N-methylpiperazine gives 1 g of the desired product :M+ =500.

reactant | N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)phenyl]-2-chloropyridine-3-carboxamide | 1 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)Cl | C25H19ClN4O2
reactant | N-methylpiperazine | 5 ml | CN1CCNCC1 | C5H12N2
product | N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)phenyl]-2-(4-methyl-1-piperazinyl)-pyridine-5-carboxamide | 1 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(=O)C=1C=CC(=NC1)N1CCN(CC1)C | C30H30N6O2
